US05071999
8-Methyl-2,7-diazabicyclo[3.3.0]octane
7.8 g (36 mmol) of 2-benzyl-8-methyl-2,7-diazabicyclo[3.3.0]octane in 200 ml of ethanol are hydrogenated at 100° C. and 100 bar on 2 g of palladium-active carbon (10% Pd). The catalyst is filtered off with suction, the filtrate is concentrated and the residue is distilled. The distillate crystallizes.

reactant | 2-benzyl-8-methyl-2,7-diazabicyclo[3.3.0]octane | 36 mmol, 7.8 g | C(C1=CC=CC=C1)N1C2C(NCC2CC1)C | C14H20N2
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | palladium | 2 g | [Pd] | Pd
product | 8-Methyl-2,7-diazabicyclo[3.3.0]octane | CC1NCC2CCNC12 | C7H14N2
